US07244747B2
In a 50 ml three necked flask fitted with a magnetic stirrer, under inert atmosphere, a solution of 4-(3-azido-2,4-difluoro-phenyl)-pyrrolidin-2-one a14 (1.84 g, 7.73 mmol), formaldehyde (35% w/w in water, 2.3 g) and NaOH (0.015 g) in EtOH (20 ml) is heated at 60° C. for 3 h. The reaction mixture is evaporated and dried azeotropically with toluene to give the crude alcohol which is purified by chromatography on silicagel (CH2Cl2/MeOH: 98/02 (v/v)) to give 4-(3-azido-2,4-difluoro-phenyl)-1-hydroxymethyl-pyrrolidin-2-one a15 (1.64 g, 79%).

reactant | 4-(3-azido-2,4-difluoro-phenyl)-pyrrolidin-2-one | N(=[N+]=[N-])C=1C(=C(C=CC1F)C1CC(NC1)=O)F | C10H8F2N4O
reactant | formaldehyde | 2.3 g | C=O | CH2O
reactant | NaOH | 0.015 g | [OH-].[Na+]
solvent | EtOH | 20 ml | CCO | C2H6O
product | 4-(3-azido-2,4-difluoro-phenyl)-1-hydroxymethyl-pyrrolidin-2-one | N(=[N+]=[N-])C=1C(=C(C=CC1F)C1CC(N(C1)CO)=O)F | C11H10F2N4O2
